US04164498
2-Methoxy-7-chloro-5-phenyl-1H-1,5-benzodiazepin-4-one
To 11.4 g of 7-chloro-5-phenyl-1H-1,5-benzodiazepine-2,4-dione stirred in 150 ml methanol is added, dropwise, approximately 2.1 g of diazomethane in ether. After addition is complete, the reaction is stirred for 1 hour and filtered. The filtrate is evaporated and the residue diluted with a small amount of ether. The suspension is filtered and the filtrate evaporated to give the title compound.

reactant | 7-chloro-5-phenyl-1H-1,5-benzodiazepine-2,4-dione | 11.4 g | ClC1=CC2=C(NC(CC(N2C2=CC=CC=C2)=O)=O)C=C1 | C15H11ClN2O2
reactant | diazomethane | approximately 2.1 g | [N+](=[N-])=C | CH2N2
solvent | methanol | 150 ml | CO | CH4O
solvent | ether | CCOCC | C4H10O
product | 2-Methoxy-7-chloro-5-phenyl-1H-1,5-benzodiazepin-4-one | COC1=CC(N(C2=C(N1)C=CC(=C2)Cl)C2=CC=CC=C2)=O | C16H13ClN2O2
